* Z:\home\dyerbm\Documents\NixieTubeClock\SEPIC_Spice.asc
XU1 N011 FBX N007 N009 MP_01 N010 N008 N006 N005 N001 0 LT3757A
L1 N002 N001 100µ Ipk=0.35 Rser=2.48 Rpar=165814 Cpar=5.449p
L2 N003 0 100µ Ipk=0.35 Rser=2.48 Rpar=165814 Cpar=5.449p
D1 N003 N004 MURS320
RSense N010 0 0.2 tol=0.1 pwr=0.1
R2 N004 FBX 1000k tol=1 pwr=0.25
R1 FBX 0 9k tol=1 pwr=0.25
C1 N003 N002 22µ V=50 Irms=3 Rser=3m
Cin N001 0 22µ V=16 Rser=10m
C2 N004 0 1µ V=250 Irms=2 Rser=8m
RT N009 0 24.3k
V1 N001 0 24
CSS N007 0 10n
RC N011 P001 20k
CC2 N011 0 30p
CC1 P001 0 10n
C3 N006 0 4.7µ
R3 N001 N005 27k
R4 N005 0 12k
R5 N004 0 6k
XU2 N002 N008 N010 NMOS_TPN2010FNH_G0_00
.model D D
.lib C:\users\dyerbm\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 1
.lib Contrib/Toshiba/nmos/TPN2010FNH_G0_00_LTspice_rev1_unenc.lib
.lib LT3757A.sub
.backanno
.end
